US04420327
Production of N-[4-chloro-3-(cyclopentanon-2-yloxy)phenyl]-3,4,5,6-tetrahydrophthalimide
A mixture of 1.52 g. of cyclohexene-1,2-dicarboxylic anhydride, 2.26 g. of 4-chloro-3-(cyclopentanon-2-yloxy) aniline and 10 ml. of acetic acid was stirred at room temperature for 30 minutes and then was refluxed with stirring for 2.5 hours. The solvent was distilled off under a reduced pressure and then, ethyl acetate was added to the residue to extract the product. The extract was washed with water and dehydrated over sodium sulfate. The solvent was distilled off and the product was purified by a chromatography on a column of silica gel (developing solvent: ethyl acetate:n-hexane of 1:4) to obtain Compound No. 5 shown in Table 1.

reactant | cyclohexene-1,2-dicarboxylic anhydride | C12=C(CCCC1)C(=O)OC2=O | C8H8O3
reactant | 4-chloro-3-(cyclopentanon-2-yloxy) aniline | ClC1=C(C=C(N)C=C1)OC1C(CCC1)=O | C11H12ClNO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[4-chloro-3-(cyclopentanon-2-yloxy)phenyl]-3,4,5,6-tetrahydrophthalimide | ClC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)OC2C(CCC2)=O | C19H18ClNO4
